US04116951
Boc-Thr(Bzl)-Thr(Bzl)-Lys(Z)-OH.
Boc-Thr(Bzl)-Lys(Z)-OH (14.0 g, 24.5 mmol) was treated with 500 ml of 4.0 N HCl in THF for 30 minutes, evaporated to dryness, and re-evaporated twice with fresh THF. The oily residue solidified when treated with ether. The dried powder (11.4 g, 21.6 mmol) of the dipeptide hydrochloride salt was then dissolved in 140 ml DMF, cooled to 0°, and treated with Boc-Thr(Bzl)-OSu (8.8 g, 21.6 mmol) followed by 3.5 ml of Et3N. A few drops of Et3N was added to maintain a slightly basic condition while the mixture was stirred for an additional 24 hours at 25°. It was acidified with 5 ml of HOAc and then diluted with a large volume of water. The solid crude product precipitated was collected, dissolved in EtOAc, washed with H2O, dried over Na2SO4, and evaporated to dryness, leaving a glassy solid mass. Crystallized from EtOAc and petroleum ether: yield, 13.8 g (83.7%); mp 110°- 112°; [α]D25 = +19.45° (c 1, EtOAc).

reactant | Boc-Thr(Bzl)-Lys(Z)-OH | 24.5 mmol, 14.0 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C30H41N3O8
reactant | HCl | 4.0 N, 500 ml | Cl | ClH
reactant | Boc-Thr(Bzl)-OSu | 21.6 mmol, 8.8 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | Et3N | 3.5 ml | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
catalyst | Et3N | A few drops | CCN(CC)CC | C6H15N
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HOAc | 5 ml | CC(=O)O | C2H4O2
product | Boc-Thr(Bzl)-Thr(Bzl)-Lys(Z)-OH | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C41H54N4O10
